US06911445B2
N-Benzyl-3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine
A mixture 3-(5-fluoro-1H-indol-3-yl)-cyclopentanone (1.0 g, 4.61 mmol), benzylamine (0.54 g, 5.05 mmol) and glacial acetic acid (0.7 mL, 1.08 mmol) were stirred at room temperature for 30 minutes. Sodium triacetoxy borohydride (1.5 g; 7.11 mmole) was added portionwise over a 10 minutes period. The reaction was stirred at room temperature for 24 hours. The reaction mixture was poured into 1 N aqueous NaOH (80 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed with H2O (100 mL) and brine (100 mL), then were dried over anhydrous sodium sulfate, filtered and concentrated to give 1.5 g of a thick yellow oil. Flash chromatography on silica gel (7% 2 M NH3 in methanol/ethyl acetate) afforded 0.5 g of the cis isomer (first eluting) and 0.5 g of the trans isomer.

reactant | 3-(5-fluoro-1H-indol-3-yl)-cyclopentanone | 4.61 mmol, 1.0 g | FC=1C=C2C(=CNC2=CC1)C1CC(CC1)=O | C13H12FNO
reactant | benzylamine | 5.05 mmol, 0.54 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 1.08 mmol, 0.7 mL | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxy borohydride | 7.11 mmole, 1.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | NaOH | 1 N, 80 mL | [OH-].[Na+]
product | N-Benzyl-3-(5-fluoro-1H-indol-3-yl)-cyclopentylamine | 1.5 g | C(C1=CC=CC=C1)NC1CC(CC1)C1=CNC2=CC=C(C=C12)F | C20H21FN2
